US05760033
To a solution of 1.0 g of N-[1-(2-bromophenyl)-3-(methylsulfonyloxy) propyl]-2,6-difluorobenzamide in 15 ml of toluene at room temperature, was added 1.1 g of Lawesson's Reagent. The reaction mixture was refluxed for 1 hour and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.4 g of 2-(2,6-difluorophenyl)-4-(2-bromophenyl)-5,6-dihydro-4H-1,3-thiazine. m.p. 136°-138° C.

reactant | N-[1-(2-bromophenyl)-3-(methylsulfonyloxy) propyl]-2,6-difluorobenzamide | 1.0 g | BrC1=C(C=CC=C1)C(CCOS(=O)(=O)C)NC(C1=C(C=CC=C1F)F)=O | C17H16BrF2NO4S
reactant | Lawesson's Reagent | 1.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-difluorophenyl)-4-(2-bromophenyl)-5,6-dihydro-4H-1,3-thiazine | 0.4 g | FC1=C(C(=CC=C1)F)C=1SCCC(N1)C1=C(C=CC=C1)Br | C16H12BrF2NS
